US07868188B2
N-[5-(6-Chloro-5-methylsulfonylaminopyridin-3-yl)-4-methyl-1,3-thiazol-2-yl]benzamide
A mixture of benzoic acid (27 mg), diisopropylethylamine (0.053 mL), 2-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate(V) (84 mg) and DMA (0.5 mL) was stirred at room temperature under an atmosphere of nitrogen for 5 minutes. N-[5-(2-Amino-4-methyl-1,3-thiazol-5-yl)-2-chloropyridin-3-yl]methanesulfonamide (32 mg) was added and the mixture was stirred and heated to 80° C. for 30 minutes. The solvent was evaporated and the residue was triturated under water. The resultant gum was purified by HPLC using a Phenomenex ‘Luna’ preparative reversed-phase column (10 microns silica, 21 mm diameter, 150 mm length) using decreasingly polar mixtures of water (containing 0.2% trifluoroactic acid) and acetonitrile as eluent. There was thus obtained the title compound as a solid (17 mg); NMR Spectrum: (DMSOd6) 2.44 (s, 3H), 3.19 (s, 3H), 7.57 (t, 2H), 7.64-7.69 (m, 1H), 7.95 (s, 1H), 8.12 (d, 2H), 8.42 (s, 1H), 9.91 (s, 1H), 12.87 (s, 1H): Mass Spectrum: M−H− 421.

reactant | benzoic acid | 27 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | diisopropylethylamine | 0.053 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-[5-(2-Amino-4-methyl-1,3-thiazol-5-yl)-2-chloropyridin-3-yl]methanesulfonamide | 32 mg | NC=1SC(=C(N1)C)C=1C=C(C(=NC1)Cl)NS(=O)(=O)C | C10H11ClN4O2S2
solvent | DMA | 0.5 mL | CC(=O)N(C)C | C4H9NO
product | N-[5-(6-Chloro-5-methylsulfonylaminopyridin-3-yl)-4-methyl-1,3-thiazol-2-yl]benzamide | 17 mg | ClC1=C(C=C(C=N1)C1=C(N=C(S1)NC(C1=CC=CC=C1)=O)C)NS(=O)(=O)C | C17H15ClN4O3S2
